US07943652B2
A solution of 3-{2-[2-(4-bromo-phenyl)-pyrrolidin-1-yl]-ethyl}-2-methyl-1H-indole (630 mg, 1.63 mmol), methyl acrylate (286 mg, 3.26 mmol), Pd2(dba)3 (14.9 mg, 0.0162 mmol), P(t-Bu)3HBF4 (18.9 mg, 0.0652 mmol) and Cy2NMe (414 μL, 1.95 mmol) in dioxane (10 mL) was heated at 100° C. by microwave for 60 minutes. The mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate, filtered, and concentrated to provide a crude product, which was purified on silica gel column chromatography to give (E)-3-(4-{1-[2-(2-Methyl-1H-indol-3-yl)-ethyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester (400 mg, 63%). LCMS (m/z): 388.97 (M+1).

reactant | 3-{2-[2-(4-bromo-phenyl)-pyrrolidin-1-yl]-ethyl}-2-methyl-1H-indole | 1.63 mmol, 630 mg | BrC1=CC=C(C=C1)C1N(CCC1)CCC1=C(NC2=CC=CC=C12)C | C21H23BrN2
reactant | methyl acrylate | 3.26 mmol, 286 mg | C(C=C)(=O)OC | C4H6O2
reactant | Cy2NMe | 1.95 mmol, 414 μL | N(C1CCCCC1)(C1CCCCC1)C | C13H25N
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.0162 mmol, 14.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-3-(4-{1-[2-(2-Methyl-1H-indol-3-yl)-ethyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester | 400 mg, 63% | COC(\C=C\C1=CC=C(C=C1)C1N(CCC1)CCC1=C(NC2=CC=CC=C12)C)=O | C25H28N2O2
